US07253196B2
2-(Bicyclo[2.2.1]hept-2-ylamino)-8-cyclopentyl-1-thia-3,8-diaza-spiro[4.5]dec-2-en-4-one
A mixture of methanesulfonic acid 2-[2-(bicyclo[2.2.1]hept-2-ylamino)-5-(2-methanesulfonyloxy-ethyl)-4-oxo-4,5-dihydro-thiazol-5-yl]-ethyl ester (half of the crude product from above) and cyclopentylamine (799 mg, 9.38 mmol) in CH2Cl2 (1.5 mL) was stirred at room temperature for 4 d. Flash column chromatography (silica gel, 0-10% MeOH in CH2Cl2) afforded the title compound as an off-white solid (52 mg). MS (ESI, pos. ion) m/z: 348 (M+H).

reactant | methanesulfonic acid 2-[2-(bicyclo[2.2.1]hept-2-ylamino)-5-(2-methanesulfonyloxy-ethyl)-4-oxo-4,5-dihydro-thiazol-5-yl]-ethyl ester | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)(CCOS(=O)(=O)C)CCOS(=O)(=O)C | C16H26N2O7S3
reactant | cyclopentylamine | 9.38 mmol, 799 mg | C1(CCCC1)N | C5H11N
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(Bicyclo[2.2.1]hept-2-ylamino)-8-cyclopentyl-1-thia-3,8-diaza-spiro[4.5]dec-2-en-4-one | 52 mg | C12C(CC(CC1)C2)NC=2SC1(C(N2)=O)CCN(CC1)C1CCCC1 | C19H29N3OS
